US04272537
To a solution of sodium (2.3 g., 0.1 gr. atom) in absolute ethanol (100 ml.) is added 2-amino-3,4-dihydro-4,4-dimethyl-6-methylthio-1,3,5-triazine (3.4 g., 0.02 mole) and the mixture is heated at reflux for 18 hours. The ethanol is distilled at reduced pressure and the residue dissolved in water (100 ml.) and extracted with ethyl acetate (3×100 ml.) dried over potassium carbonate and evaporated in vacuo to give 1.3 g of 2-amino-3,4-dihydro-4,4-dimethyl-6-ethoxy-1,3,5-triazine which melts at 175°-8° C. after crystallization from acetonitrile.

reactant | sodium | 2.3 g | [Na] | Na
reactant | 2-amino-3,4-dihydro-4,4-dimethyl-6-methylthio-1,3,5-triazine | 0.02 mole, 3.4 g | NC1=NC(=NC(N1)(C)C)SC | C6H12N4S
reactant | ethanol | 100 ml | C(C)O | C2H6O
product | 2-amino-3,4-dihydro-4,4-dimethyl-6-ethoxy-1,3,5-triazine | 1.3 g | NC1=NC(=NC(N1)(C)C)OCC | C7H14N4O
